US07192982B2
4′-Fluoro-biphenyl-4-ol
A mixture of p-Iodophenol linked to the Wang's resin from Step A (1 eq), 4-fluorobenzene boronic acid (6 eq), K2CO3 (12 eq) and Pd(OAc)2 (0.5 eq) were suspended in a mixture of dioxane/water (6/1) and the mixture was heated at 100° C. and stirring for 36 hours. The resin was washed with DMF/H2O and MeOH/THF/HCl diluted and MeOH/CH2Cl2. After it was dried, was suspended in dichloromethane, and TFA 95% was added. The mixture was stirred at room temperature for 30 min then filtered and washed with MeOH and dichloromethane. The solvents were concentrated to dryness to give the title product.

reactant | p-Iodophenol | IC1=CC=C(C=C1)O | C6H5IO
reactant | 4-fluorobenzene boronic acid | 6 eq | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | K2CO3 | 12 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane water | O1CCOCC1.O
catalyst | Pd(OAc)2 | 0.5 eq | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4′-Fluoro-biphenyl-4-ol | FC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9FO
